US08058045B2
Trifluoroacetic acid (0.1 mL) was added to tert-butyl 4-((5-chloro-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate (12 mg, 0.027 mmol) in dichloromethane (1 mL) and the mixture was stirred at r.t. for 2 hr. Solvent was removed in vacuo and the residue was redissolved in MeOH and adsorbed onto Isolute SCX-II acidic resin (500 mg). The resin was washed with methanol, then 2M ammonia in methanol. The basic fractions were evaporated to dryness to give 5-(5-chloro-4-(piperidin-4-ylmethylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile (2 mg, 22%) as a yellow powder.

reactant | Trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-((5-chloro-2-(5-cyanopyrazin-2-ylamino)pyridin-4-ylamino)methyl)piperidine-1-carboxylate | 0.027 mmol, 12 mg | ClC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)NCC1CCN(CC1)C(=O)OC(C)(C)C | C21H26ClN7O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-(5-chloro-4-(piperidin-4-ylmethylamino)pyridin-2-ylamino)pyrazine-2-carbonitrile | 2 mg, 22% | ClC=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)NCC1CCNCC1 | C16H18ClN7
